US04764522
3.2 g of t-butyl [2-(3-bromopyridine-2-carboxamido)ethyl]carbamate were heated to reflux for 4 hours with 3.5 ml of methylene chloride and 3.5 ml of trifluoroacetic acid. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in ethanol and the solution was treated with an equimolar amount of ethanolic hydrochloric acid. The hydrochloride was recrystallized from methanol/ether, whereby there was obtained N-(2-aminoethyl)-3-bromopyridine-2-carboxamide hydrochloride as white crystals, m.p. 279°.

reactant | t-butyl [2-(3-bromopyridine-2-carboxamido)ethyl]carbamate | 3.2 g | BrC=1C(=NC=CC1)C(=O)NCCNC(OC(C)(C)C)=O | C13H18BrN3O3
reactant | trifluoroacetic acid | 3.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 3.5 ml | C(Cl)Cl | CH2Cl2
product | N-(2-aminoethyl)-3-bromopyridine-2-carboxamide hydrochloride | Cl.NCCNC(=O)C1=NC=CC=C1Br | InChI=1S/C8H10BrN3O.ClH/c9-6-2-1-4-11-7(6)8(13)12-5-3-10;/h1-2,4H,3,5,10H2,(H,12,13);1H
